US05480580
In 150 ml of 3,3-dimethoxypentane was dissolved 25 g of (S)(-)-butanetriol, and 0.1 g of p-toluenesulfonic acid was added to the solution. The solution was stirred for 16 hr to conduct a reaction. The resultant reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate, the reaction product was extracted with an ether, and the extract was washed with a saturated saline solution. The solvent was distilled off from the extract as washed, and the resultant residue was purified by a silica gel column chromatography through the use of hexane-ethyl acetate as a developing solvent to obtain 26.5 g of (S)-2,2-diethyl-4-(2-hydroxyethyl)-1,3-dioxolane. The whole quantity of the product was dissolved in 500 ml of benzene, and 24 g of imidazole, 100 g of triphenylphosphine and 40 g of iodine were added to the solution. The mixture was stirred for 2 hr and then poured into ice water. The reaction product was extracted with an ether, and the extract was well washed with a 10% aqueous solution of sodium thiosulfate and dried over magnesium sulfate. The solvent was removed from the dried reaction product by distillation, and the resultant residue was purified by a silica gel column chromatography through the use of hexane-ethyl acetate as a developing solvent to obtain 31 g of (S)-2,2-diethyl-4-(2-iodoethyl)-1,3-dioxolane.

reactant | p-toluenesulfonic acid | 0.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3,3-dimethoxypentane | 150 ml | COC(CC)(CC)OC | C7H16O2
product | (S)-2,2-diethyl-4-(2-hydroxyethyl)-1,3-dioxolane | 26.5 g | C(C)C1(OC[C@@H](O1)CCO)CC | C9H18O3
